Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever, respiratory distress
 
Major Surgical or Invasive Procedure:
Intubation ___
Extubation ___ 

 
History of Present Illness:
This is a ___ male with history of Alzheimer's,
previously on hospice care (recently discharged), who presents
with respiratory distress. Patient is nonverbal at baseline and
significantly altered and unable to provide additional history.
Today wife felt that he was increasingly sleepy and brought him
here for evaluation. He had a fever last night. Seen by ___ visiting clinician on ___ for aspiration/pneumonia, 
for
which he received 10 day course of levofloxacin. Wife states he
has not had a cough but he has been having noisy breathing. No
vomiting or diarrhea. As he is nonverbal he has not been able to
articulate any specific complaints.

In the ED, patient minimally responsive on initial evaluation 
and
hypoxic to the mid ___ on room air. He had difficulty increasing
oxygenation with nonrebreather and patient was too altered to
tolerate BiPAP. Therefore he was intubated. Received 3L LR,
vancomycin and cefepime in the ED. Chest x-ray suggestive of
aspiration pneumonia. WBC elevated and Hct/Hgb suggested
significant hemoconcentration.

On my evaluation, patient was intubated and unable to 
participate
in history. He has previously had MOLST form with DNR/DNI
completed ___. Per daughter, currently DNR/ok to intubate.

In the ED, initial vitals: T100.8 HR139 BP145/94 RR20 SpO2 90%
nrb  

Exam:  
General: Seated in bed, minimally responsive
Head/eyes: Normocephalic/atraumatic. Pupils equal round and
reactive to light.
ENT/neck: Dry mucous membranes
Chest/Resp: Tachypnea, poor air movement, rhonchorous
Cardiovascular: Tachycardic, regular
GI/abdominal: Soft, nondistended
Musc/Extr/Back: No peripheral edema. 
Skin: Warm and dry
Psych: Poor mentation

Labs:  Na 150  Cl 110  BUN34  Glu189  K4.0  Bicarb23  Cr1.2  
AGap=17 
Ca: 10.3 Mg: 2.7 P: 2.7
ALT: 21 AP: 87 Tbili: 0.7 Alb: 3.8 
AST: 15  Lip: 13     
WBC 27.9  Hgb17.7/Hct 54.8 Plt326 
Flu negative

Imaging: 
CXR ___: Lower lung opacities concerning for pneumonia versus
the sequelae of aspiration. Possible pulmonary vascular
congestion. 

Consults: None 

Interventions:  Intubation

VS Prior to Transfer: T98.9 HR80 BP93/62 RR16 SpO296% Intubation 


ROS: Positives as per HPI; otherwise negative.  
 
Past Medical History:
Essential hypertension 
Hypercholesteremia 
Early onset Alzheimer's disease with behavioral disturbance 
Aspiration pneumonia of both lower lobes 
Slow transit constipation 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: Reviewed in Metavision, HR 78 BP 93/64, SpO2 96%, RR 15 
GEN: Intubated, sedated 
EYES: Pupils equal and nonreactive  
HENNT: Intubated, trachea midline 
CV: RRR, no m/r/g
RESP:  Mechanical breath sounds 
GI: Bowel sounds present 
MSK: No gross deformity, warm extremities 
SKIN: No rashes or skin breakdown  
NEURO: Intubated and sedated 
PSYCH: Unable to assess 

DISCHARGE PHYSICAL EXAM:
========================
Not examined fully as he is CMO; appeared comfortable, without 
labored or rapid respirations. No response to voice or touch. No 
grimacing, restlessness, or obvious signs of distress.

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 05:30PM BLOOD WBC-27.9* RBC-5.73 Hgb-17.7* Hct-54.8* 
MCV-96 MCH-30.9 MCHC-32.3 RDW-13.5 RDWSD-47.8* Plt ___
___ 05:30PM BLOOD Neuts-90.4* Lymphs-3.2* Monos-4.2* 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-25.18* AbsLymp-0.89* 
AbsMono-1.18* AbsEos-0.00* AbsBaso-0.12*
___ 05:59PM BLOOD ___ PTT-32.7 ___
___ 05:30PM BLOOD Glucose-189* UreaN-34* Creat-1.2 Na-150* 
K-4.0 Cl-110* HCO3-23 AnGap-17
___ 05:30PM BLOOD ALT-21 AST-15 AlkPhos-87 TotBili-0.7
___ 05:30PM BLOOD Lipase-13
___ 05:30PM BLOOD Albumin-3.8 Calcium-10.3 Phos-2.7 Mg-2.7*
___ 10:15AM BLOOD Triglyc-156*
___ 06:37PM BLOOD Type-ART pO2-155* pCO2-29* pH-7.48* 
calTCO2-22 Base XS-0
___ 05:34PM BLOOD Lactate-2.3*

LAST SET OF LABS BEFORE ___ MADE CMO (___):
==============================================
___ 11:53AM BLOOD WBC-8.7 RBC-3.71* Hgb-11.6* Hct-35.8* 
MCV-97 MCH-31.3 MCHC-32.4 RDW-13.0 RDWSD-45.8 Plt ___
___ 04:03AM BLOOD Glucose-85 UreaN-11 Creat-0.5 Na-141 
K-4.2 Cl-111* HCO3-21* AnGap-9*
___ 04:03AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.3

MICRO:
======
__________________________________________________________
___ 7:24 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    SPARSE GROWTH. 
__________________________________________________________
___ 8:00 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 5:49 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
========
___ Imaging CHEST (PORTABLE AP) 
1.  ET tube terminates 5.7 cm above the carina.  Consider slight 
advancement for more optimal positioning.  OG tube positioned 
appropriately. 
2.  Lower lung opacities concerning for pneumonia versus the 
sequelae of 
aspiration.  Possible pulmonary vascular congestion. 

___ Imaging CHEST (PORTABLE AP) 
Lungs are low volume with bibasilar atelectasis.  Mild 
interstitial edema is unchanged.  Support lines and tubes are 
stable.  Cardiomediastinal silhouette is also unchanged.  Small 
bilateral effusions left greater than right are unchanged.  No 
pneumothorax is seen. 

___-SPINE W/O CONTRAST 
1. No evidence of acute fracture or malalignment. 
2. Mild cervical spondylosis. 

___ Imaging CT HEAD W/O CONTRAST 
1. No evidence of an acute intracranial abnormality. 
2. Severe parenchymal atrophy. 

 
Brief Hospital Course:
Patient is ___ male with history of severe Alzheimer's, 
previously on hospice who presented with respiratory failure 
requiring urgent intubation. The patient's family was present 
for goals of care discussion, and it was ultimately decided to 
transition to comfort-focused care with hospice.

ACUTE PROBLEMS:
===============
# Hypoxemic respiratory failure
The patient was brought in from home with increasing somnolence, 
cough, and labored breathing. He was hypoxemic to the ___ on 
arrival to the emergency room. He was started on IV vancomycin 
and cefepime. CXR suggested aspiration pneumonia. He was 
intubated and transferred to the intensive care unit. The ICU 
team discussed goals of care with the patient's family, who 
decided that the patient would not want to be on a ventilator. 
He was extubated and transferred to the general floor for 
comfort care. Subsequent respiratory distress was management 
with IV morphine gtt and then SL liquid morphine.

# Hypovolemic hypernatremia
Patient was given IV fluids with subsequent improvement.

# Myoclonus
# Encephalopathy
Patient has dementia and is non-verbal at baseline, with acutely 
worsened mental status in setting of infection. He was found to 
have clonus of the extremities. Head CT and CT-spine were 
unremarkable. There was low concern for seizures per neurology. 

# Goals of care
The patient was previously on hospice prior to this admission. 
Due to respiratory failure, the family decided to change the 
patient's code status to DNR/DNI, comfort care, with plan for 
home hospice. The patient was maintained on oral morphine and 
Ativan for comfort. 

========================
TRANSITIONAL ISSUES
========================
[ ] Patient is discharged to home hospice with scripts for 
morphine and Ativan as needed for comfort.

[x] The patient is safe to discharge today, and I spent [x] 
<30min; [ ] >30min in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 5 mg PO DAILY 
2. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
3. Hyoscyamine 0.125 mg PO QID:PRN secretions 
4. amLODIPine 10 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Lisinopril 2.5 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Donepezil 10 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Atropine Sulfate 1% ___ DROP SL Q4H:PRN excess secretions  
3.  Glycopyrrolate 0.1-0.2 mg IV Q4H:PRN excess secretions  
4.  LORazepam Oral Solution 0.5 mg PO Q6H:PRN agitation, anxiety 

RX *lorazepam 2 mg/mL 0.25 ml by mouth Once every six hours 
Refills:*0 
5.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL ___ 
mg SL Q2H:PRN respiratory distress, pain 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 0.75-1.0 ml by 
mouth Once every two hours Refills:*0 
6.  Scopolamine Patch 1 PTCH TD Q72H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
-Aspiration pneumonia
-Acute hypoxemic respiratory failure 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___ and ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for difficulty breathing.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL? 
- You had a breathing tube placed and were connected to a 
ventilator for your difficulty breathing.
- Your family decided to remove the breathing tube and focus on 
making you comfortable.  
- You were connected with hospice care and arrangements were 
made for you to go home on hospice.

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Enjoy spending time with your family and loved ones.
 
Sincerely,  

Your ___ Team
 
Followup Instructions:
___